US07772246B2
To a solution of 5-bromo-N-methylpyridin-2-amine B-2-2 (1 g, 5.37 mmol) in DMF (30 mL) were added KOAc (1.58 g, 16.1 mmol) and bis(pinacolato)diboron (2 g, 8.06 mmol). The resulting mixture was degassed under N2 for 2 minutes. Then Pd(PPh3)2Cl2 (0.5 g, 0.53 mmol) was added and the mixture was degassed again. The reaction was heated to 80˜90° C. and stirred overnight. DMF was removed under reduced pressure. The residue was dissolved with EtOAc (40 mL), washed with saturated aqueous NaCl, dried over Na2SO4 and concentrated to give crude N-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine B-2-3 (2.3 g), which was used directly in next step.

reactant | 5-bromo-N-methylpyridin-2-amine | 5.37 mmol, 1 g | BrC=1C=CC(=NC1)NC | C6H7BrN2
reactant | KOAc | 16.1 mmol, 1.58 g | CC(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 8.06 mmol, 2 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.53 mmol, 0.5 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | CNC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C12H19BN2O2
